US04435390
1.5 g of 11β,17,21-trihydroxy-6α-methyl-4-pregnene-3,20-dione is reacted analogously to Example 1(a) with methoxyacetic acid chloride, worked up, and chromatographed, thus isolating 1.6 g of 11β,17-dihydroxy-21-methoxyacetoxy-6α-methyl-4-pregnene-3,20-dione.

reactant | 11β,17,21-trihydroxy-6α-methyl-4-pregnene-3,20-dione | 1.5 g | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)O)C)=O)C | C22H32O5
reactant | methoxyacetic acid chloride | COCC(=O)Cl | C3H5ClO2
product | 11β,17-dihydroxy-21-methoxyacetoxy-6α-methyl-4-pregnene-3,20-dione | 1.6 g | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(COC)=O)=O)([C@]2(C1)C)O)C)=O)C | C25H36O7
